US08304577B2
A solution of (1R)-1-amino-2-methyl-1-(4-(2-methylpentyloxy)phenyl)propan-2-ol.TFA (100 mg, 0.264 mmol) in dichloromethane (4 mL) was cooled to 0° C. To this solution (S)-2-phenylpropanoic acid (0.043 mL, 0.316 mmol), N,N-diisopropylethylamine (0.276 mL, 1.581 mmol) and HATU (120 mg, 0.316 mmol) were added. The ice-water bath was removed and reaction mixture was stirred at room temperature for 3 h. The reaction mixture was transferred to a separatory funnel containing saturated aqueous NaHCO3 solution (60 mL). The aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine (20 mL), dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (30%→40% ethyl acetate in hexanes) to afford (2S)-N-((1R)-2-hydroxy-2-methyl-1-(4-(2-methylpentyloxy)phenyl)propyl)-2-phenylpropanamide (73 mg, 70% yield) as a colorless solid: 1H NMR (400 MHz, CDCl3) δ 7.17-7.34 (m, 5H), 6.92 (d, J=8.8 Hz, 2H), 6.74 (d, J=8.8 Hz, 2H), 6.29 (d, J=8.6 Hz, 1H), 4.68 (d, J=8.6 Hz, 1H), 3.75 (dd, J=8.8, 5.8 Hz, 1H), 3.59-3.68 (m, 2H), 1.90 (dq, J=12.9, 6.4 Hz, 1H), 1.74 (s, 1H), 1.47 (d, J=7.1 Hz, 3H), 1.26-1.51 (m, 3H), 1.18 (s, 3H), 1.14-1.26 (m, 1 H), 0.98 (d, J=6.5 Hz, 3H), 0.96 (s, 3H), 0.90 (t, J=7.3 Hz, 3H); LRMS (ESI) m/e 398.2 [(M+H)+, calcd for C25H36NO3 398.3].

reactant | (1R)-1-amino-2-methyl-1-(4-(2-methylpentyloxy)phenyl)propan-2-ol | N[C@@H](C(C)(O)C)C1=CC=C(C=C1)OCC(CCC)C | C16H27NO2
reactant | TFA | 0.264 mmol, 100 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (S)-2-phenylpropanoic acid | 0.316 mmol, 0.043 mL | C1(=CC=CC=C1)[C@@H](C(=O)O)C | C9H10O2
reactant | N,N-diisopropylethylamine | 1.581 mmol, 0.276 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.316 mmol, 120 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | 60 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (2S)-N-((1R)-2-hydroxy-2-methyl-1-(4-(2-methylpentyloxy)phenyl)propyl)-2-phenylpropanamide | 73 mg, 70% yield | OC([C@@H](C1=CC=C(C=C1)OCC(CCC)C)NC([C@@H](C)C1=CC=CC=C1)=O)(C)C | C25H35NO3
